US07423030B2
15.1 2-(4-methoxybenzoyl)-5-methylbenzoic acid
This compound is obtained according to the procedure described in 1.1. by reacting 4-methoxybenzoyl chloride and 2-bromo-5-methylbenzoic acid after halogen-lithium exchange. It is used in crude form in the following reaction.

reactant | 4-methoxybenzoyl chloride | COC1=CC=C(C(=O)Cl)C=C1 | C8H7ClO2
reactant | 2-bromo-5-methylbenzoic acid | BrC1=C(C(=O)O)C=C(C=C1)C | C8H7BrO2
product | 2-(4-methoxybenzoyl)-5-methylbenzoic acid | COC1=CC=C(C(=O)C2=C(C(=O)O)C=C(C=C2)C)C=C1 | C16H14O4
